US07642220B2
13. Preparation of 4-Chloro-2-fluoro-3-methoxybenzaldehyde
1-Bromo-4-chloro-2-fluoro-3-methoxybenzene (23.7 g, 99 mmol, see U.S. Pat. No. 7,300,907 for preparation) was dissolved in dry diethyl ether and cooled to −78° C. 2.5M n-Butyllithium in hexanes (44 mL, 110 mmol) was added in portions, keeping the temperature below −70° C. during the addition. DMF (15.5 mL, 200 mmol) was then added in portions, keeping the temperature below −60° C. The reaction mixture was then allowed to warm to ambient temperature and quenched with water. The organic phase was dried and concentrated. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) to yield the title compound in sufficient purity for subsequent reactions (11.4 g, 61% yield): 1H NMR (CDCl3) δ 10.32 (s, 1H), 7.55 (m, 1H), 7.3 (m, 1H), 4.05 (d, 3H).

reactant | 1-Bromo-4-chloro-2-fluoro-3-methoxybenzene | BrC1=C(C(=C(C=C1)Cl)OC)F | C7H5BrClFO
reactant | n-Butyllithium | 2.5M | C(CCC)[Li]
reactant | DMF | 200 mmol, 15.5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Chloro-2-fluoro-3-methoxybenzaldehyde | 61% yield | ClC1=C(C(=C(C=O)C=C1)F)OC | C8H6ClFO2
